US08242104B2
To a solution of 4-[2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester (569 mg, 1.16 mmol) in dioxane (15 mL) and methanol (5 mL) was added 4M HCl in dioxane (15 mL) and the reaction mixture stirred for 20 h at RT before being concentrated in vacuo. The resultant residue was triturated in a mixture of diethyl ether and methanol to give 2-(2-Isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene Hydrochloride as a tan solid (212 mg, 43%). LCMS: RT=2.34/2.66 min, M+H+=393.

reactant | 4-[2-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | 1.16 mmol, 569 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=C(N2)C)C(C)C)C=C1 | C27H36N6O3
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 5 mL | CO | CH4O
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 2-(2-Isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-8-piperidin-4-yl-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene Hydrochloride | 212 mg, 43% | Cl.C(C)(C)N1N=C(N=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)C3CCNCC3)C | InChI=1S/C22H28N6O.ClH/c1-14(2)28-22(24-15(3)26-28)19-13-27-10-11-29-20-12-17(16-6-8-23-9-7-16)4-5-18(20)21(27)25-19;/h4-5,12-14,16,23H,6-11H2,1-3H3;1H
